US08802661B2
Preparation of 1-(3-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxamido)propanoyl)piperidine-4-carboxylic acid
To a solution of methyl 1-(3-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxamido)propanoyl)piperidine-4-carboxylate (0.058 g, 0.075 mmol) in 1,4-dioxane (2 mL) was added NaOH (1N) (0.377 mL, 0.377 mmol). The mixture was heated to 85° C. for 15 h then was cooled to rt. The mixture was diluted with 5 mL of 1N HCl and was extracted with dichloromethane (4×5 mL). The combined organic layers were dried with Na2SO4, the drying agent was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by Biotage flash chromatography using a 0-10% MeOH in dichloromethane gradient with 0.1% HOAc added to the mixture. The compound was further purified by prep HPLC. The fractions containing the expected product were combined and concentrated under reduced pressure to give the title compound (41.5 mg, 0.056 mmol, 74.3% yield) as a white solid. LCMS: m/e 739.4 (M−H)−, 2.37 min (method 4). 1H NMR (500 MHz, Acetic Acid-d4) δ ppm 8.03 (d, J=8.24 Hz, 2H), 7.30 (d, J=8.24 Hz, 2H), 5.37 (d, J=6.10 Hz, 1H), 4.79 (s, 1H), 4.64 (s, 1H), 4.43-4.53 (m, 1H), 3.95-4.02 (m, 1H), 3.46-3.70 (m, 2H), 3.18-3.27 (m, 1H), 3.13 (qd, J=11.04, 4.12 Hz, 1H), 2.65-2.97 (m, 4H), 2.47-2.57 (m, 1H), 1.74 (s, 3H), 1.07 (s, 3H), 1.06 (s, 3H), 1.05 (s, 3H), 1.03-2.24 (m, 25H), 1.00 (s, 3H), 0.99 (s, 3H).

reactant | methyl 1-(3-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxamido)propanoyl)piperidine-4-carboxylate | 0.075 mmol, 0.058 g | COC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)NCCC(=O)N5CCC(CC5)C(=O)OC)C)C)(C)C | C48H68N2O6
reactant | NaOH | 0.377 mmol, 1N, 0.377 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 1N, 5 mL | Cl | ClH
product | 1-(3-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-carboxyphenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxamido)propanoyl)piperidine-4-carboxylic acid | 0.056 mmol, 41.5 mg, 74.3% yield | C(=O)(O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)NCCC(=O)N5CCC(CC5)C(=O)O)C)C)(C)C | C46H64N2O6
